US05929085
(d) 2,3,4,6,11,11a-Hexahydro-1H-pyrazino[1,2-b]isoquinolin-8-amine trihydrochloride
To 8-nitro-2,3,4,6,11,11a-hexahydro-1H-pyrazino[1,2-b]isoquinoline (2.98 g) in methanol (150 ml) and water (10 ml) was added concentrated hydrochloric acid (3.26 ml) and 5% Pd--C (300 mg). The mixture was treated with hydrogen at 50 psi on a Parr Hydrogenator. Hydrogen uptake was complete in 1.0 hour. The catalyst was filtered off and the solvent removed under reduced pressure to yield the title product as a solid (3.69 g).

reactant | 8-nitro-2,3,4,6,11,11a-hexahydro-1H-pyrazino[1,2-b]isoquinoline | 2.98 g | [N+](=O)([O-])C=1C=CC=2CC3N(CC2C1)CCNC3 | C12H15N3O2
reactant | hydrochloric acid | 3.26 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 150 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 2,3,4,6,11,11a-Hexahydro-1H-pyrazino[1,2-b]isoquinolin-8-amine trihydrochloride | 3.69 g | Cl.Cl.Cl.C1NCCN2CC=3C=C(C=CC3CC21)N | InChI=1S/C12H17N3.3ClH/c13-11-2-1-9-6-12-7-14-3-4-15(12)8-10(9)5-11;;;/h1-2,5,12,14H,3-4,6-8,13H2;3*1H
